US06599917B1
e) 2-Bromo-6-[(3R,4R)-3,4-ethylenedioxypyrrolidine-1-yl]pyridine
1.49 g of 60% oily sodium hydride was added little by little to a solution of 150 ml of N,N-dimethylformamide containing 11.82 g of 2-bromo-6-[(3R,4R)-3-hydroxy-4-(2-methanesulfonyloxyethyl)oxypyrrolidine-1-yl]pyridine under stirring in an ice bath. Then, after stirring at room temperature for one hour, 372 mg of 60% oily sodium hydride was added thereto. After stirred for further 45 minutes, the reaction mixture was poured into water and extracted twice with ethyl acetate. The organic phase was washed with water and brine, and the solvent was removed. The residue was crystallized from ethyl acetate/hexane, to give 5.35 g of the target compound.

reactant | sodium hydride | 1.49 g | [H-].[Na+]
reactant | N,N-dimethylformamide | 150 ml, 11.82 g | CN(C=O)C | C3H7NO
reactant | 2-bromo-6-[(3R,4R)-3-hydroxy-4-(2-methanesulfonyloxyethyl)oxypyrrolidine-1-yl]pyridine | BrC1=NC(=CC=C1)N1C[C@H]([C@@H](C1)OCCOS(=O)(=O)C)O | C12H17BrN2O5S
reactant | sodium hydride | 372 mg | [H-].[Na+]
solvent | water | O | H2O
product | 2-Bromo-6-[(3R,4R)-3,4-ethylenedioxypyrrolidine-1-yl]pyridine | 5.35 g | BrC1=NC(=CC=C1)N1C[C@@H]2[C@@H](C1)OCCO2 | C11H13BrN2O2
